US06825354B2
Methyl[(4-hydroxyphenyl)sulfanyl](4-ethoxyphenyl)acetate Methyl bromo(4-ethoxyphenyl)acetate (7.6 g, 27.8 mmol) was added to a stirring solution of triethyl amine (30 ml), sodium sulfite(3.0 g, 23.8 mmol), and 4-mercaptophenol (3.5 g, 27.8 mmol) in methanol (200 ml). The mixture was stirred overnight before it was concentrated and the residue was extracted in ethyl acetate and washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The compound was isolated using silica-gel column chromatography by eluting it with 20% ethyl acetate: hexane solution. Methyl[(4-hydroxyphenyl)sulfanyl](4-ethoxyphenyl)acetate was isolated as a crude product (7.76 g, 24.4 mmol). Yield 88%. MS: 317.1 (M−H)−

reactant | Methyl[(4-hydroxyphenyl)sulfanyl](4-ethoxyphenyl)acetate Methyl bromo(4-ethoxyphenyl)acetate | 27.8 mmol, 7.6 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCC.COC(C(C1=CC=C(C=C1)OCC)SC1=CC=C(C=C1)O)=O
reactant | triethyl amine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | sodium sulfite | 23.8 mmol, 3.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-mercaptophenol | 27.8 mmol, 3.5 g | SC1=CC=C(C=C1)O | C6H6OS
solvent | methanol | 200 ml | CO | CH4O
product | Methyl[(4-hydroxyphenyl)sulfanyl](4-ethoxyphenyl)acetate | Yield 88% | COC(C(C1=CC=C(C=C1)OCC)SC1=CC=C(C=C1)O)=O | C17H18O4S
